*
* Circuit simulator for t1
*
* NGSPICE simulation script
* BJT amp with feedback
*
t1
* forces current values to be saved
.options savecurrents


* Paramiters
.param Kb = 7.26294962318m;
.param Kc = 8.23798173787k;


* supply voltage
Va a 0 5.02770960543 

* Resistances
R1 a b 1.02055434268k
R2 b c 2.00415325659c3
R3 b d 3.09219210964k
R4 0 d 4.13741259708k
R5 d e 3.11995097026k
R6 0 f 2.00264223494K
R7 h g 1.02137871871K

 *Extra voltage source
 Vee 0 f 0

* Voltage Sources
Ve f h 0
Hc d g Vee Kc

* Current Sources
Gb e c b d Kb
Id e g 1.03462284298m

 


*Control commads
.control
print v(a,0) v(d,g) v(e,h) V(c,e) v(a,b) v(b,c) v(b,d) v(0,d) v(d,e) v(0,f) v(f,g)
*print i(Va) i(Ve)

.endc
.END